US08217069B2
To a solution of 2,4-dichloro-6-methoxy-5-nitropyrimidine (1.79 g) in acetonitrile (21 mL) were added 2-chloro-5-(2-fluoro-6-methoxybenzyloxy)-4-methoxyaniline (2.18 g) and N,N-diisopropylethylamine (1.28 mL), and the mixture was stirred at 40° C. for 3 days. To the reaction mixture was added water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residual solids were suspended in a mixed solvent (n-hexane/ethyl acetate=3/1), and collected by filtration. The collected solids were dried under reduced pressure to give 2-chloro-N-(2-chloro-6-methoxy-5-nitropyrimidin-4-yl)-5-(2-fluoro-6-methoxybenzyloxy)-4-methoxyaniline (3.15 g). The title compound was prepared in a similar manner to that described in Example 397 using this material instead of 2-chloro-N-(2-chloro-6-methoxy-5-nitropyrimidin-4-yl)-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyaniline.

reactant | 2,4-dichloro-6-methoxy-5-nitropyrimidine | 1.79 g | ClC1=NC(=C(C(=N1)Cl)[N+](=O)[O-])OC | C5H3Cl2N3O3
reactant | 2-chloro-5-(2-fluoro-6-methoxybenzyloxy)-4-methoxyaniline | 2.18 g | ClC1=C(N)C=C(C(=C1)OC)OCC1=C(C=CC=C1OC)F | C15H15ClFNO3
reactant | N,N-diisopropylethylamine | 1.28 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | water | O | H2O
solvent | acetonitrile | 21 mL | C(C)#N | C2H3N
product | 2-chloro-N-(2-chloro-6-methoxy-5-nitropyrimidin-4-yl)-5-(2-fluoro-6-methoxybenzyloxy)-4-methoxyaniline | 3.15 g | ClC1=C(NC2=NC(=NC(=C2[N+](=O)[O-])OC)Cl)C=C(C(=C1)OC)OCC1=C(C=CC=C1OC)F | C20H17Cl2FN4O6
